Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Shortness of breath/chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization on ___.  No intervention done (see 
pertinent results section for details)

 
History of Present Illness:
___ yr old F patient with hx of LAD stent in ___ (at ___ and 
severe COPD on 2L NC at home who presented to ___ on ___ 
with sob,. Per patient and ___ records she has had COPD and 
is on 2L NC at home. She can normally walk to her bathroom 
without sob but if she goes down the stairs she feels short of 
breath and needs to stop and rest for awhile. On ___ she 
was feeling even more short of breath than usual and her famliy 
brought her to ___. She had no white count, a trop of 0.06, 
and CXR showed right basilar patchy consolidation thought ot be 
pneumonitis and mild failure per radiologist at ___. 
 She was admitted and started on levoqiuon for pneumonia. She 
was also started on nebs, IV solumedrol for COPD exacerbation. 
She was also diuresed with IV lasix for presumed mild diastolic 
heart failure exacerbation.
 She was then seen by cardiologist (dr. ___ in consultation 
who recommended that dyspnea may be ___ unstable angina not CHF 
since BNP was 176 on admission and they d/cd the lasix. (also 
patients creatinine increased to 1.6 on lasix). He felt she 
needed urgent cath for possible unstable angina. on ___ had 
P- mibi showing mild middle to basal lateral wall ischemia with 
preserved EF (65%), consistent with ETT done at ___ in ___. 
She was transferred to ___ for cath.
  She had chest ___ consistent with prior MI pain and 
consistent with prior episodes she's been having since ___ 
prior to leaving ___. Responded to ___ inch nitro paste.
 On arrival to ___ cath lab patient reports persistent chest 
pain that she relates to anxiety. She says she has had this off 
and on since the stent was put in in ___. It is left-sided, not 
associated with exertion, occurs at rest, does not radiate. 
Currently she is experiencing it off and on with the nitro patch 
on. She also reports she is at baseline SOB for her. Otherwise 
has no complaints or concerns.
.  
Cardiac review of systems is notable for absence of paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema, palpitations, syncope 
or presyncope.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: 
Diabetes(-),dyslipidemia(+),Hypertension(+)  
2. CARDIAC HISTORY:  
-CABG:  None
-PERCUTANEOUS CORONARY INTERVENTIONS:  CAD sp NSTEMI and 
Endeavor stent in ___ to LAD (70-80% stenosis)
-PACING/ICD:  
3. OTHER PAST MEDICAL HISTORY:  
COPD (emphysema with FEV1 81% predicted)
hypothyroidism
urge incontinence
Grade 1 diastolic CHF on TTE in ___
chronic left lung/lingular infiltrate
thyroid nodule
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  Mom had 
breast cancer, sister intestine cancer
 
Physical Exam:
Admission Exam
.
VS: T=97.8 BP=157/61 HR=94 RR=18 O2 sat=95 on 2L NC  
GENERAL: Elderly F with visible tachypnea. Oriented x3. Mood, 
affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Dry mucous 
membranes.  
NECK: Supple with JVP flat with patient at 45 degrees.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS:  Tachypnea (30) Rhonchi bilaterally on experiation 
without wheezing in anterior. Unable to examine posteriorly 
post-cath.
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: DP 1+ ___ 1+  
Left: DP 1+ ___ 1+  

Discharge Exam
.
VS: Tc: 98.5 Tm: 98.5 BP: 155/70 (141-177/54-80) HR: 95 (81-96) 
RR: 18 O2:95-100% RA/2L NC  
GENERAL: pt visibly tachypenic and with increased WOB, otherwise 
NAD 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM  
NECK: Supple without JVP  
CARDIAC: normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS:  Tachypenic with increaed WOB.  There are faint 
expiratory wheezes and ronchi bilaterally.  There are no 
crackles.
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. 1+ ___ pulses bilaterally
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas
 
Pertinent Results:
___ 07:50AM BLOOD WBC-9.2# RBC-3.57* Hgb-10.8* Hct-32.9* 
MCV-92 MCH-30.2 MCHC-32.8 RDW-13.3 Plt ___
___ 07:50AM BLOOD Glucose-92 UreaN-42* Creat-1.5* Na-140 
K-3.9 Cl-107 HCO3-28 AnGap-9
___ 07:50AM BLOOD Calcium-9.0 Phos-3.0 Mg-2.1

Cardiac Cath ___:
1. Coronary angiography in this right-dominant system 
demonstrated
one-vessel disease. The LMCA and RCA had no significnat disease. 
The
prior LAD stent was widely patent. The LCx had a 60% stenosis at 
the
bifurcation with a small to moderate sized obtuse marginal 
branch, which
had a 90% ostial stenosis.
2. Limited resting hemodynamics revealed moderate systemic 
arterial
hypertension, with an SBP of 163 mm Hg.
.
FINAL DIAGNOSIS:    
1. One vessel coronary artery disease.
.
CXR ___: 
1. Hyperinflation in a pattern consistent with clinical history 
of COPD.
2. Chronic lingular opacification without evidence of pneumonia.
3. Left pleural convexity may be loculated effusion but followup 
within 2
weeks, then to resolution recommended; otherwise CT necessary to 
further
characterize.
.
EKG at ___: ___: Sinus tach at 102bpm, Nl axis, nl 
intervals, Qw III, avf, LVH. No ST/TW changes.
.
EKG pre-cath at ___: NSR at 85bpm, Nl axis, LVH, QW III, aVF. 
No ST/TW changes.

 
Brief Hospital Course:
___ F with severe COPD on home O2 and CAD s/p NSTEMI with DES 
to LAD in ___ admitted to ___ with multi-factorial SOB 
possibly related to cardiac ischemia/unstable angina now s/p 
cardiac cath which revealed prior LAD stent patent and 90% 
stenotic OM2 lesion but small and unlikely to be helped by 
stenting so interventional team recommended medical management 
of coronary disease.
  
.  
# CORONARIES:  S/P NSTEMI in ___ s/p DES to LAD in ___.  Cath 
at ___ on ___ showed no intervenable lesions (see pertinent 
results) and she was managed medically with ___, 
simvastatin 40mg.  Of note, her imdur dose was increased from 
30mg to 60mg daily post-cath for anginal sx which were improved 
at time of discharge.  She remained chest-pain free throughout 
the day of ___ and we felt she was clear for discharge from a 
cardiac standpoint.  
.
#Shortness of breath:  Pt with significant baseline COPD and 
likely contributing to her SOB at ___.  Patient 
remained tachypenic with increased work of breathing throughout 
her admission, but she says this is her baseline and that she 
felt back to normal.  Her PCP's office was contacted and 
confirmed her baseline of increased work of breathing.  We 
continued her on albuterol/ipratroprium nebs for COPD.  Upon 
transfer from ___, she was on PO solumederol at 60mg q6h.  
Given that this high dose was not chronic for her, we quickly 
tapered her to prednisone 60mg daily, and discharged her with 
instructions to decrease her dose by 10mg every 5 days.  This 
seems congruent with the predinsone dosing she was started on at 
her PCP's office in early ___.  Of note, she was started on 
levoquin 750mg PO q48 hrs at ___ for COPD 
exacerbation as well as a presumed pna given her left lingular 
opacity.  However, this is chronic for her and has been followed 
with intermittent CTs and CXRs as an outpatient and has 
apparently remained stable. We sent her out on levoquin to 
complete this course through ___.  Repeat CXR at ___ was 
notable for an additional left pleural convexity which may be 
loculated effusion but could also be concerning for malignancy.  
The radiologists recommended followup for this within 2 weeks, 
then to resolution.  If no resolution, a CT may be necessary to 
further characterize. Of note patient refusing any pulmonary 
rehab or ___ and insisting on taking care of herself at home as 
she feels back to her baseline.
.
# PUMP:  Has diastolic CHF with EF 65% on recent imaging. Likely 
had some component of CHF exacerbation on admission to ___ 
but remained euvolemic at ___.  I/Os were monitored as were 
daily weights.  She was on a low salt diet.  No diuresis was 
required
.  
# RHYTHM:  NSR.  Monitored on tele
.  
#  Chronic renal insufficiency (1.3-1.5 baseline at ___: She 
remained within her baseline during admission.

.  
#Dispo:  Pt refusing pulmonary rehab or home ___ at the time of 
discharge, but we feel that this should be readdressed as an 
outpatient as she would likely benefit from it.
 
Medications on Admission:
Medications at home per PCP ___ ___
.
Oxybutinin 10mg daily
Ranitidine 150mg daily
Imdur 30mg daily
Palvix 75mg daily
Simvastatin 40mg daily
Aspirin 325mg daily
Vitamin D 1000units daily
Prednisone 10mg as directed (taper started on ___
Atrovent 2 puffs QID (started combivent on ___
.
on transfer: 
.   
IV levaquin 250mg for 6 more days
Ativan 0.5mg PO BID PRN
___ 75mg daily
zocor 40mg PO QHS
Pepcid 20mg daily
Imdur 30mg daily
Klonipin 0.5mg BID
Solumedrol 60mg PO q6H
Duoneb 1 Q4H while awake Q12H PRN
Mucomyst 600mg PO BID
Hep IV gtt
 
Discharge Medications:
1. oxybutynin chloride 5 mg Tablet Sig: Two (2) Tablet PO Q 24H 
(Every 24 Hours).  
2. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
7. prednisone 10 mg Tablet Sig: Six (6) Tablet PO once a day: 6 
tabs daily x5 days, 5 tabs daily x5 days, 4 tabs daily x5 days, 
3 tabs daily x5 days, 2 tabs daily x5 days, 1 tab daily x5 days.

.
Disp:*105 Tablet(s)* Refills:*0*
8. levofloxacin 750 mg Tablet Sig: One (1) Tablet PO every other 
day for 3 days: start ___, last dose ___.
Disp:*2 Tablet(s)* Refills:*0*
9. isosorbide mononitrate 60 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
10. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler 
Inhalation
11. ipratropium bromide  Inhalation

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
-Chronic obstructive pulmonary disease exacerbation 
-Congestive heart failure
-Coronary artery disease

Secondary:
Chronic lingular consolidation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

You were admitted to ___ to have a cardiac 
catheterization, because your doctors at ___ were 
concerned for worsening of your heart disease.  You had the 
procedure which showed that your prior stent was in good shape, 
and no further interventions were done.

We have also been treating you for a COPD exacerbation with 
prednisone and antibiotics, as well as your normal COPD 
inhalers.  We feel that your COPD is the primary factor 
contributing to your shortness of breath.

We have made the following changes to your medications:
-We added levofloxacin 750 mg by mouth every other day.  Start 
this tomorrow (___) and your last dose will be on ___.  
-We increased your imdur (isosorbate dinitrate) to 60mg by mouth 
daily
-You should take prednisone at the following regimen:  6 tabs 
daily x5 days, 5 tabs daily x5 days, 4 tabs daily x5 days, 3 
tabs daily x5 days, 2 tabs daily x5 days, 1 tab daily x5 days.

You sould continue all other medications as prescribed.

Please note your follow up appointment below.  

You have declined any outpatient rehab or visiting nurses.  
Please note that this was not our recommendation, and we feel 
that you may benefit from this in the future.
 
Followup Instructions:
___